US03953429
3α-Hydroxy-2α-methyl-5α-pregnane-11,20-dione
A solution of 20,20-ethylenedioxy-3α-hydroxy-2α-methyl-5α-pregnane-11-one (0.38 g.) and toluene-p-sulphonic acid (30 mg.) in acetone (20 ml.) was kept at room temperature for 11/2 hr. The reaction mixture was then evaporated to low bulk and an aqueous solution of sodium hydrogen carbonate was added. The precipitated solid (0.32 g.) was collected and purified by preparative t.l.c. and crystallised from methyl acetate/petrol (b.p. 60°-80°) to give the title compound (0.175 g.), m.p. 179°-180°, [α]D + 125°.

reactant | 20,20-ethylenedioxy-3α-hydroxy-2α-methyl-5α-pregnane-11-one | 0.38 g | C1OC(C)([C@H]2CC[C@H]3[C@@H]4CC[C@H]5C[C@@H]([C@@H](C[C@]5(C)[C@H]4C(C[C@]23C)=O)C)O)OC1 | C24H38O4
reactant | toluene-p-sulphonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3α-Hydroxy-2α-methyl-5α-pregnane-11,20-dione | 0.175 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@H]1C)C)=O)C | C22H34O3
